US09034880B2
Preparation of 8-chloro-7-fluoro-2,3,4,5-tetrahydro-2-methyl-5-(2-(piperidin-1-yl)ethyl)-1H-pyrido[4,3-b]indole (Compound 292)
The title compound is prepared by following General Method 8 by using 1-(bromomethyl)piperidine, 4-chloro-3-fluorophenylhydrazine hydrochloride, triethylamine and N-methyl-4-piperidone.

reactant | 1-(bromomethyl)piperidine | BrCN1CCCCC1 | C6H12BrN
reactant | 4-chloro-3-fluorophenylhydrazine hydrochloride | Cl.ClC1=C(C=C(C=C1)NN)F
reactant | N-methyl-4-piperidone | CN1CCC(CC1)=O | C6H11NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
product | 8-chloro-7-fluoro-2,3,4,5-tetrahydro-2-methyl-5-(2-(piperidin-1-yl)ethyl)-1H-pyrido[4,3-b]indole | ClC1=CC=2C3=C(N(C2C=C1F)CCN1CCCCC1)CCN(C3)C | C19H25ClFN3
